US06939887B2
Synthesis of 5-bromo-1-(2,4-dimethoxybenzyl)-7-(trifluoromethyl)-1,3-dihydro-2H-benzimidazol-2-one
To a solution of ethyl 2-amino-4-bromo-6-(trifluoromethyl)phenyl(2,4-dimethoxybenzyl)carbamate (1.1345 g) in ethanol (75 ml) was added sodium hydride (60%) (225.5 mg). The reaction mixture was heated at reflux for 33 hours. The solvent was removed to about one third in vacuo. To the reaction mixture was added 1N hydrochloric acid, and the mixture was basified with saturated aqueous sodium bicarbonate solution, and extracted 5 times with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and concentrated in vacuo to give the title compound (1090.7 mg, quantitative yield). HPLC retention time: 34.49 min (condition 2).

reactant | ethyl 2-amino-4-bromo-6-(trifluoromethyl)phenyl(2,4-dimethoxybenzyl)carbamate | 1.1345 g | NC1=C(C(=CC(=C1)Br)C(F)(F)F)N(C(OCC)=O)CC1=C(C=C(C=C1)OC)OC | C19H20BrF3N2O4
reactant | sodium hydride | 225.5 mg | [H-].[Na+]
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 5-bromo-1-(2,4-dimethoxybenzyl)-7-(trifluoromethyl)-1,3-dihydro-2H-benzimidazol-2-one | 1090.7 mg, quantitative yield | BrC1=CC2=C(N(C(N2)=O)CC2=C(C=C(C=C2)OC)OC)C(=C1)C(F)(F)F | C17H14BrF3N2O3
